US05532236
7-Nitro-8-thiomorpholino[1,2,4 ]triazolo[4,3-a]quinoxaline-1,4(2H,5H)-dione
The title compound was prepared from 8-fluoro-7-nitro[1,2,4]triazolo[4,3-a]quinoxaline-1,4(2H,5H)-dione and thiomorpholine by a method analogous to the method described in example 11. M.p. 230° C. decomp.

reactant | 8-fluoro-7-nitro[1,2,4]triazolo[4,3-a]quinoxaline-1,4(2H,5H)-dione | FC1=C(C=C2NC(C=3N(C2=C1)C(NN3)=O)=O)[N+](=O)[O-] | C9H4FN5O4
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
product | 7-Nitro-8-thiomorpholino[1,2,4 ]triazolo[4,3-a]quinoxaline-1,4(2H,5H)-dione | [N+](=O)([O-])C=1C=C2NC(C=3N(C2=CC1N1CCSCC1)C(NN3)=O)=O | C13H12N6O4S
